US04952587
(a) [1H-Indazol-3-yl]amide oxime
Hydroxylamine hydrochloride (1.5 g) and potassium carbonate (3.83 g) were stirred together in absolute ethanol (100 ml) for 15 minutes. Indazole-3-carbonitrile (2 g) was added and the solution heated at reflux for 4 hours, cooled to room temperature and diluted with methanol (5 ml). The solution was filtered and the solvent evaporated. The residue was extracted with anhydrous ether, the extracts were dried over MgSO4, filtered and the solvent removed to afford a white solid, which was recrystallised from acetone/dichloromethane to afford the title compound (900 mg), m.p. 155°-158° C. δH (360 MHz, CDCl3) 6.46 (1H, brm, N-OH), 7.17 (1H, t, J=1 Hz, H-6), 7.41 (1H, t, J=2 Hz, H-5), 7.55 (1H, d, J=2 Hz, H-4), 8.03 (1H, t, J=2 Hz, H-7); m/z (M+ , 100%), 176 (100), 144 (80), 119 (25), 92 (15).

reactant | Hydroxylamine hydrochloride | 1.5 g | Cl.NO
reactant | potassium carbonate | 3.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | Indazole-3-carbonitrile | 2 g | N1N=C(C2=CC=CC=C12)C#N | C8H5N3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | methanol | 5 ml | CO | CH4O
product | [1H-Indazol-3-yl]amide oxime | 900 mg | C1=CC=C2C(=C1)C(=C(N)N=O)NN2 | C8H8N4O
